US07482356B2
Preparation of 3-(2-methanesulfonyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-α]pyrazole-2-carboxylic acid 2-chloro-benzylamide (16):
To a solution of 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid 2-chloro-benzylamide, 15, (0.20 g, 0.48 mmol) in THF/MeOH (8 mL of 1:1 mixture) was added dropwise a solution of Oxone® (potassium peroxymonosulfate) (in H2O (8 mL). After stirring the reaction for 1.5 h at room temperature, the solution was poured into aqueous saturated NaHCO3. The aqueous phase is extracted with CHCl3 (×3). The combined organic phases are dried (MgSO4), filtered and concentrated in vacuo to afford the desired product which is used without further purification.

reactant | 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid 2-chloro-benzylamide | ClC1=C(CNC(=O)C2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)SC)C=CC=C1 | C19H18ClN5O2S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF MeOH | 8 mL | C1CCOC1.CO
solvent | H2O | 8 mL | O | H2O
product | 3-(2-methanesulfonyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-α]pyrazole-2-carboxylic acid 2-chloro-benzylamide | ClC1=C(CNC(=O)C2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)S(=O)(=O)C)C=CC=C1 | C19H18ClN5O4S
